* Z:\mnt\design.r\spice\examples\3409.asc
XU1 N003 0 IN MP_01 0 N001 IN N002 LTC3409
L1 N001 OUT 2.2µ
R1 OUT N003 255K
R2 N003 0 133K
V1 IN 0 5
C1 OUT 0 10µ
C2 OUT N003 10p
Rload OUT 0 100
V2 N002 0 SINE(1 1 1Meg)
.tran 1.2m startup
.lib LTC3409.sub
.backanno
.end
